US07820659B2
Ethyl 2-(4-bromo-2-chlorobenzyl)-4-oxobutanoate
Add sodium periodate (41 g, 190 mmol) into a solution of ethyl 2-(4-bromo-2-chlorobenzyl)pent-4-enoate (21 g, 63 mmol), 2.5 wt % OsO4 (64 g, 6.3 mmol) in THF (400 mL) and water (160 mL) and stir for 2 hours. Extract the reaction mixture with ethyl acetate, wash the organic layer with sodium thiosulfate solution and brine. Dry over sodium sulfate, filter and concentrate. Purify the residue with silica gel column to afford the title compound (15.9 g, 75%) as colorless oil.

reactant | sodium periodate | 190 mmol, 41 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethyl 2-(4-bromo-2-chlorobenzyl)pent-4-enoate | 63 mmol, 21 g | BrC1=CC(=C(CC(C(=O)OCC)CC=C)C=C1)Cl | C14H16BrClO2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | 160 mL | O | H2O
catalyst | OsO4 | 6.3 mmol, 64 g | O=[Os](=O)(=O)=O
product | Ethyl 2-(4-bromo-2-chlorobenzyl)-4-oxobutanoate | 15.9 g, 75% | BrC1=CC(=C(CC(C(=O)OCC)CC=O)C=C1)Cl | C13H14BrClO3
